US06656957B1
2-Methyl-6-[2-(pyridin-3-yl)-vinyl]-pyridine
A solution of 2,6-dimethyl pyridine (5.8 ml, 50 mMol), pyridine-3-carbaldehyde (4.9 ml, 52 mMol) in acetic anhydride (9.5 ml) is heated under reflux for 10 hours. The acetic anhydride is then evaporated in vacuo and the residue purified on column chromatography (silica gel 900 g). The column is first eluted with toluene/acetone 9:1 (7 L), then with toluene/acetone 4:1 (5 L) and finally with toluene/acetone 2:1 (5 L). The fractions containing the desired compound are combined, and evaporated in vacuo. The solid residue is recrystallized from methylene chloride/diisopropyl ether and 4.28 g of a colorless oil which solidify upon standing at 6-8° C.

reactant | 2,6-dimethyl pyridine | 50 mMol, 5.8 ml | CC1=NC(=CC=C1)C | C7H9N
reactant | pyridine-3-carbaldehyde | 52 mMol, 4.9 ml | N1=CC(=CC=C1)C=O | C6H5NO
solvent | acetic anhydride | 9.5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Methyl-6-[2-(pyridin-3-yl)-vinyl]-pyridine | CC1=NC(=CC=C1)C=CC=1C=NC=CC1 | C13H12N2
